US06972340B2
methyl N-{[4-({[(benzyloxy)carbonyl]amino}methyl)cyclohexyl]carbonyl}-L-norleucinate
To a stirring mixture of 4-({[(benzyloxy)carbonyl]amino}methyl)cyclohexanecarboxylic acid (750 mg, 2.57 mmol), TBTU (1.08 g, 3.34 mmol), and HOBT (55 mg, 0.03 mmol) in DMF (15 mL) was added the norleucine OMe HCl (411 mg, 2.83 mmol), followed by addition of triethylamine (898 μL, 6.43 mmol). The resulting mixture was then stirred at ambient temperature for 2 hours, diluted with water and the resulting precipitate was collected by filtration and dried in a vacuum oven to provide the titled compound (830 mg, 1.98 mmol, 77%).

reactant | 4-({[(benzyloxy)carbonyl]amino}methyl)cyclohexanecarboxylic acid | 2.57 mmol, 750 mg | C(C1=CC=CC=C1)OC(=O)NCC1CCC(CC1)C(=O)O | C16H21NO4
reactant | TBTU | 3.34 mmol, 1.08 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 0.03 mmol, 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 6.43 mmol, 898 μL | C(C)N(CC)CC | C6H15N
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl N-{[4-({[(benzyloxy)carbonyl]amino}methyl)cyclohexyl]carbonyl}-L-norleucinate | 1.98 mmol, 830 mg, 77% | C(C1=CC=CC=C1)OC(=O)NCC1CCC(CC1)C(=O)N[C@@H](CCCC)C(=O)OC | C23H34N2O5
